US04570006
Synthesis of 4-amidino-2-benzoylphenyl 4-acetyloxycinnamate
To a mixture of 3.1 g of 4-acetyloxycinnamic acid and 50 ml of dried pyridine, while being cooled in ice, was added 3.7 g of DDC. To the mixture, after having been stirred for 30 minutes, was added 5.0 g of 4-amidino-2-benzoylphenol methanesulfonate. The mixture was stirred overnight at room temperature. The insolubles precipitated from the reaction mixture were collected by filtration and mixed with DMF. Ethyl ether was added to the supernatant to precipitate an insoluble substance which was recrystallized from ethanol, yielding 4.7 g of colorless crystals of 4-amidino-2-benzoylphenyl 4-acetyloxycinnamate methanesulfonate.

reactant | 4-acetyloxycinnamic acid | 3.1 g | C(C)(=O)OC1=CC=C(C=CC(=O)O)C=C1 | C11H10O4
reactant | 4-amidino-2-benzoylphenol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=C(C=C(C=C1)C(N)=N)C(C1=CC=CC=C1)=O | C15H14N2O4S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-amidino-2-benzoylphenyl 4-acetyloxycinnamate | 4.7 g | C(C)(=O)OC1=CC=C(C=CC(=O)OC2=C(C=C(C=C2)C(N)=N)C(C2=CC=CC=C2)=O)C=C1 | C25H20N2O5
